US08012986B2
2-(3-Bromo-phenyl)-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.4) (0.41 g, 1.5 mmol) and commercially available 3-bromo-benzene-boronic acid (0.33 g, 1.64 mmol) according to the general procedure IIb. Obtained as a light yellow solid (0.30 g, 51%). MS (ISP) 394.0 [(M+H)+]; mp 130° C.

reactant | 2-chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 1.5 mmol, 0.41 g | ClC1=NC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C11H7ClF3N3
reactant | 3-bromo-benzene-boronic acid | 1.64 mmol, 0.33 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C17H11BrF3N3
